US06184225B2
Concentrated aqueous ammonia (25 ml) was added to a solution of 7-acetoxy4-(5-benzyloxy-2-fluoro-4-methylanilino)-6-methoxyquinazoline (1.5 g, 3.4 mmol) in methanol (100 ml). The mixture was stirred at ambient temperature for 30 minutes, and most of the organic volatiles were then removed by evaporation. Further water was added and the precipitate was collected by filtration, washed with water and dried to give 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-hydroxy-6-methoxyquinazoline (1.2 g, 89%) which was used without further characterisation.

reactant | ammonia | 25 ml | N | H3N
reactant | 7-acetoxy4-(5-benzyloxy-2-fluoro-4-methylanilino)-6-methoxyquinazoline | 3.4 mmol, 1.5 g | C(C)(=O)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C)F)OC | C25H22FN3O4
solvent | methanol | 100 ml | CO | CH4O
product | 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 1.2 g, 89% | C(C1=CC=CC=C1)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C1)F)C | C23H20FN3O3
